US07732446B1
1-Aminomethyl-6,7-dimethoxy-isoquinoline-4-carboxylic acid (2-methoxy-ethyl)-amide
A solution of [6,7-dimethoxy-4-(2-methoxy-ethylcarbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester (45 mg, 0.11 mmol) in dioxane (2 ml) was treated with 4M HCl in dioxane (2 ml) and the mixture was stirred overnight at room temperature. Diethyl ether was added and the HCl salt was collected by suction filtration (38 mg, quant.): 1H NMR (DMSO-d6) δ 3.28 (s, 3H), 3.47-3.53 (m, 4H), 3.89 (s, 3H), 3.99 (s, 3H), 4.72 (m, 2H), 7.46 (s, 1H), 7.70 (s, 1H), 8.42 (s, 1H), 8.65 (br s, 3H), 8.82 (m, 1H); MS (APCI) m/z 320.1 [M+1]+.

reactant | [6,7-dimethoxy-4-(2-methoxy-ethylcarbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 0.11 mmol, 45 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)C(NCCOC)=O)=O | C21H29N3O6
reactant | HCl | 4M | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 1-Aminomethyl-6,7-dimethoxy-isoquinoline-4-carboxylic acid (2-methoxy-ethyl)-amide | COCCNC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)CN | C16H21N3O4
